US08685988B2
Synthesis of N1-(4-(3-aminophenoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-N4-(1-(2-fluoroethyl)azetidin-3-yl)-2-methoxybenzene-1,4-diamine
A mixture of (2-(4-(1-(2-fluoroethyl)azetidin-3-ylamino)-2-methoxyphenylamino)-4-(3-nitrophenoxy)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate (530 mg, 0.87 mmol), NH2NH2.H2O (98%, 2.5 mL), Pd/C (110 mg), a magnetite, and MeOH (10 mL) was stirred at reflux temperature overnight. The mixture was cooled to room temperature, and was filtered through diatomaceous earth, washing with MeOH (20 mL). The filtrate was concentrated under reduced pressure. NaHCO3(aq) was added, and the mixture was extracted with ethyl acetate (30 mL×3). The combined organic layers were concentrated under reduced pressure. The crude material was purified by column chromatography (DCM/MeOH=40/1 as elution) to give the title compound (125 mg, yield 31%, M+H+=464.2) as a white solid.

reactant | (2-(4-(1-(2-fluoroethyl)azetidin-3-ylamino)-2-methoxyphenylamino)-4-(3-nitrophenoxy)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 0.87 mmol, 530 mg | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=C(N=C2OC2=CC(=CC=C2)[N+](=O)[O-])NC2=C(C=C(C=C2)NC2CN(C2)CCF)OC | C30H34FN7O6
reactant | NH2NH2.H2O | 2.5 mL | NN.O
catalyst | Pd/C | 110 mg | [Pd] | Pd
solvent | MeOH | 10 mL | CO | CH4O
product | N1-(4-(3-aminophenoxy)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)-N4-(1-(2-fluoroethyl)azetidin-3-yl)-2-methoxybenzene-1,4-diamine | 125 mg, yield 31% | NC=1C=C(OC=2C3=C(N=C(N2)NC2=C(C=C(C=C2)NC2CN(C2)CCF)OC)NC=C3)C=CC1 | C24H26FN7O2
